### PR TITLE
[Merged by Bors] - feat: the Fuglede–Putnam–Rosenblum theorem for C⋆-algebras

### PR DESCRIPTION
**Pull request by j-loreaux**
Let `A` be a C⋆-algebra, and let `a b x : A`. The Fuglede–Putnam–Rosenblum theorem states that if `a` and `b` are normal and `x` intertwines `a` and `b` (i.e., `SemiconjBy x a b`). Then `x` also intertwines `star a` and `star b`. Fuglede's original result was for `a = b` (i.e., if `x` commutes with `a`, then `x` also commutes with `star a`), and Putnam extended it to intertwining elements. Rosenblum later gave the elementary proof formalized here using Liouville's theorem.

A version of the Fuglede–Putnam theorem also holds for unbounded operators, but it necessitates a different proof technique and holds in different generality than the one given here.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/Ring.lean [hunk 1]
```diff
@@ -60,14 +60,24 @@ protected theorem Summable.tsum_mul_right (a) (hf : Summable f L) :
...
-  · exact (hf.tsum_mul_left a).symm.trans ((tsum_congr h).trans (hf.tsum_mul_right a))
-  · exact (tsum_eq_zero_of_not_summable hf).symm ▸ Commute.zero_right _
+  · rw [SemiconjBy, ← hf.tsum_mul_right a, ← hf.tsum_mul_left b, tsum_congr h]
+  · simp [tsum_eq_zero_of_not_summable hf]
+
+theorem SemiconjBy.tsum_right {f g : ι → α} (a : α) (hf : Summable f L) (hg : Summable g L)
+    (h : ∀ (i : ι), SemiconjBy a (f i) (g i)) :
+    SemiconjBy a (∑'[L] (i : ι), f i) (∑'[L] (i : ι), g i) := by
+  rw [SemiconjBy, ← hf.tsum_mul_left a, ← hg.tsum_mul_right a]
+  exact tsum_congr fun i => h i
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Ring.lean]:
```suggestion
  exact tsum_congr h
```

File: Mathlib/Topology/Algebra/InfiniteSum/Ring.lean [hunk 2]
```diff
@@ -60,14 +60,24 @@ protected theorem Summable.tsum_mul_right (a) (hf : Summable f L) :
     ∑'[L] i, f i * a = (∑'[L] i, f i) * a :=
   (hf.hasSum.mul_right _).tsum_eq
 
-theorem Commute.tsum_right (a) (h : ∀ i, Commute a (f i)) : Commute a (∑'[L] i, f i) := by
+theorem SemiconjBy.tsum_left {a b : α} (h : ∀ (i : ι), SemiconjBy (f i) a b) :
+    SemiconjBy (∑'[L] (i : ι), f i) a b := by
   classical
```
Comment (loefflerd) [inline Mathlib/Topology/Algebra/InfiniteSum/Ring.lean]:
```suggestion
```

File: Mathlib/Analysis/Normed/Algebra/Exponential.lean [hunk 3]
```diff
@@ -542,6 +542,18 @@ theorem exp_mem_unitary_of_mem_skewAdjoint [StarRing 𝔸] [ContinuousStar 𝔸]
...
+    SemiconjBy x (exp a) (exp b) := by
+  rw [exp_eq_tsum ℚ]
+  apply SemiconjBy.tsum_right x (expSeries_summable' _) (expSeries_summable' _)
+  exact fun _ ↦ h.pow_right _ |>.smul_right _
+
+lemma _root_.SemiconjBy.exp_neg_mul_mul_exp_eq_self {x a b : 𝔸} (h : SemiconjBy x a b) :
+    exp (-b) * x * exp a = x := by
+  apply (isUnit_exp b).mul_left_cancel
+  let hb := invertibleExp b
+  simp [← invOf_exp, ← mul_assoc, h.exp_right.eq]
```
Comment (loefflerd) [inline Mathlib/Analysis/Normed/Algebra/Exponential.lean]: golf:
```suggestion
  let := invertibleExp b
  simpa [← invOf_exp, mul_assoc, invOf_mul_eq_iff_eq_mul_left] using h.exp_right
```
(I was surprised to learn that `Invertible` is a data-carrying typeclass, so the `let` is correct; I tend to assume that typeclasses with adjectival names are Prop-valued, but this one seems to be an exception.)

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 4]
```diff
@@ -0,0 +1,164 @@
...
+import Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Basic
+import Mathlib.Analysis.CStarAlgebra.Exponential
+import Mathlib.Analysis.Complex.Liouville
+
+
+/-! # The Fuglede–Putnam–Rosenblum theorem
+
+Let `A` be a C⋆-algebra, and let `a b x : A`. The Fuglede–Putnam–Rosenblum theorem states that
+if `a` and `b` are normal and `x` intertwines `a` and `b` (i.e., `SemiconjBy x a b`). Then `x` also
+intertwines `star a` and `star b`. Fuglede's original result was for `a = b` (i.e., if `x` commutes
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]: Maybe we should explicitly write down the semicommutation relation (rather than assuming the reader knows the meaning of at least one of `intertwines` and `SemiconjBy`)?

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 5]
```diff
@@ -0,0 +1,164 @@
...
+with `a`, then `x` also commutes with `star a`), and Putnam extended it to intertwining elements.
+
+Rosenblum later gave the elementary proof formalized here using Liouville's theorem which proceeds
+as follows. The map `f : ℂ → A` given by `z ↦ exp (z • star b) * x * exp (z • star (-a))`. When
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]: Sentence fragment "The map..." (maybe you mean "Consider the map ..." ?)

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 6]
```diff
@@ -0,0 +1,164 @@
...
+`x` intertwines `a` and `b` (i.e., `SemiconjBy x a b`), then it also intertwines `exp (star z • a)`
+and `exp (star z • b)`. Then the map `f` can be realized as `z ↦ u * x * v` for fixed unitaries
+`u` and `v`. In fact, `u = exp (I • 2 • ℑ (z • star b))` and `v = exp (I • 2 • ℑ (star z • a))`;
+it is here that normality of `a` and `b` is used to ensure that
+`exp (star z • a) * exp (- star (z • a)) = exp (I • 2 • ℑ (star z • a))` and likewise for `b`.
+There fore `‖f z‖ = ‖x‖` for all `z`, and since `f` is clearly entire, by Liouville's theorem,
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]:
```suggestion
Therefore `‖f z‖ = ‖x‖` for all `z`, and since `f` is clearly entire, by Liouville's theorem,
```

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 7]
```diff
@@ -0,0 +1,164 @@
...
+`f` is constant. Evaluating at `z = 0` proves that `f z = x` for all `z`. Therefore,
+`exp (z • star b) * x = x * exp (z • star a)`. Differentiating both sides and evaluating at `z = 0`
+proves that `star b * x = x * star a`, as desired.
+-/
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean:55]: Perhaps we should give a literature reference for this argument?

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 8]
```diff
@@ -0,0 +1,164 @@
...
+public import Mathlib.Analysis.CStarAlgebra.Classes
+import Mathlib.Analysis.CStarAlgebra.ContinuousFunctionalCalculus.Basic
+import Mathlib.Analysis.CStarAlgebra.Exponential
+import Mathlib.Analysis.Complex.Liouville
+
+
+/-! # The Fuglede–Putnam–Rosenblum theorem
+
+Let `A` be a C⋆-algebra, and let `a b x : A`. The Fuglede–Putnam–Rosenblum theorem states that
+if `a` and `b` are normal and `x` intertwines `a` and `b` (i.e., `SemiconjBy x a b`). Then `x` also
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]:
```suggestion
if `a` and `b` are normal and `x` intertwines `a` and `b` (i.e., `SemiconjBy x a b`), then `x` also
```

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 9]
```diff
@@ -0,0 +1,164 @@
...
+open NormedSpace
+
+variable {A : Type*} [CStarAlgebra A] {a b x : A} [IsStarNormal a] [IsStarNormal b]
+
+/-- The map `expMulMulExp : ℂ → A` given by `z ↦ exp (z • star b) * x * exp (z • star (-a))` for
+fixed `a b x : A`. -/
+noncomputable def expMulMulExp (a b x : A) (z : ℂ) : A := exp (z • star b) * x * exp (z • star (-a))
+
+open scoped ComplexStarModule
+open selfAdjoint
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]: Move to top of file? Or should these be `open ... in`?

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 10]
```diff
@@ -0,0 +1,164 @@
...
+  simp_rw [← mul_assoc, mul_assoc (_ * _ * x)]
+  congr!
+  all_goals
+    open Complex in
+    simp only [RCLike.star_def, star_neg, smul_neg, expUnitary_coe, val_smul,
+      imaginaryPart_apply_coe, star_smul, RingHomCompTriple.comp_apply, RingHom.id_apply, neg_smul,
+      smul_comm (2 : ℝ) I, ne_eq, OfNat.ofNat_ne_zero, not_false_eq_true, smul_inv_smul₀,
+      smul_smul I I, I_mul_I, one_smul, neg_sub, star_star]
+    rw [sub_eq_add_neg, NormedSpace.exp_add_of_commute]
+    by_cases! hz : z = 0 <;> simp [hz, star_comm_self, Commute.symm]
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]: Something seems a little strange here, because we're case-splitting and then using exactly the same proof in both cases. Perhaps `grind [Commute.smul_left, Commute.smul_right, Commute.neg_right]` is preferable? (This can also be combined with the preceding `rw`).

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 11]
```diff
@@ -0,0 +1,164 @@
...
+lemma expMulMulExp_eq_expUnitary_mul_expUnitary (h : SemiconjBy x a b) (z : ℂ) :
+    expMulMulExp a b x z =
+      expUnitary ((2 : ℝ) • ℑ (z • star b)) * x * expUnitary ((2 : ℝ) • ℑ (star z • a)) := by
+  let _ : NormedAlgebra ℚ A := .restrictScalars ℚ ℂ A
+  have : SemiconjBy x (z • a) (z • b) := h.smul_right _
+  nth_rw 1 [expMulMulExp, ← (h.smul_right (star z)).exp_neg_mul_mul_exp_eq_self]
+  simp_rw [← mul_assoc, mul_assoc (_ * _ * x)]
+  congr!
+  all_goals
+    open Complex in
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]: I'm wondering why this namespace is opened in the middle of a proof (is it to avoid "collisions" if opened for the whole proof or whole file?)

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 12]
```diff
@@ -0,0 +1,164 @@
...
+  h.semiconjBy.star_right ha ha
+
+/-- **Fuglede–Putnam–Rosenblum**: If `a` is a normal element in a C⋆-algebra `A` which
+commutes with `x`, then `star a` commutes with `x`. -/
+public lemma IsStarNormal.commute_star_left {A : Type*} [NonUnitalCStarAlgebra A] {a x : A}
+    (ha : IsStarNormal a) (h : Commute a x) :
+    Commute (star a) x :=
+  ha.commute_star_right h.symm |>.symm
+
+public lemma isStarNormal_iff_forall_exp_mul_exp_mem_unitary {a : A} :
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean:128]: Do I understand correctly that this lemma is placed in this file because the proof technique resembles Rosenblum's proof above (but with 2nd deriv instead of 1st deriv), not because it logically depends on the rest of the file? Maybe it should be mentioned in the file-level docstring.

**Review by loefflerd — COMMENTED** [review]
Thanks for doing this, it's a cool result and I'm happy we are in a position to add it to mathlib!

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean (hunk 11 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/Fuglede.lean]: A bit, yes. There is `Complex.exp` and `NormedSpace.exp`. Lean can generally figure out which one, but not having `Complex` open makes it unambiguous.

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean (hunk 12 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/Fuglede.lean:128]: Correct. I've added a comment in the module doc.

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 13]
```diff
@@ -0,0 +1,178 @@
...
+
+In a follow-up paper, Cater [cater1961] proved a number of related results using similar techniques.
+We include one of these below, but the proof is independent of the Fuglede–Putnam–Rosenblum theorem.
+
+## Main results
+
++ `fuglede_putnam_rosenblum`: If `a` and `b` are normal elements in a C⋆-algebra `A` which
+  are interwined by `x` (i.e., `SemiconjBy x a b`, that is, `x * a = b * x`), then `star a` and
+  `star b` are also intertwined by `x`.
++
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]:
```suggestion
+ `isStarNormal_iff_forall_exp_mul_exp_mem_unitary`: A characterization of normal elements in a 
  C⋆-algebra in terms of exponentials.
```

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 14]
```diff
@@ -0,0 +1,178 @@
...
+fixed unitaries `u` and `v`. In fact, `u = exp (I • 2 • ℑ (z • star b))` and
+`v = exp (I • 2 • ℑ (star z • a))`; it is here that normality of `a` and `b` is used to ensure that
+`exp (star z • a) * exp (- star (z • a)) = exp (I • 2 • ℑ (star z • a))` and likewise for `b`.
+Therefore `‖f z‖ = ‖x‖` for all `z`, and since `f` is clearly entire, by Liouville's theorem,
+`f` is constant. Evaluating at `z = 0` proves that `f z = x` for all `z`. Therefore,
+`exp (z • star b) * x = x * exp (z • star a)`. Differentiating both sides and evaluating at `z = 0`
+proves that `star b * x = x * star a`, as desired.
+
+In a follow-up paper, Cater [cater1961] proved a number of related results using similar techniques.
+We include one of these below, but the proof is independent of the Fuglede–Putnam–Rosenblum theorem.
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]:
```suggestion
We include one of these below, `isStarNormal_iff_forall_exp_mul_exp_mem_unitary`, 
but the proof is independent of the Fuglede–Putnam–Rosenblum theorem.
```

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean (hunk 11 above)
Comment (loefflerd) [reply Mathlib/Analysis/CStarAlgebra/Fuglede.lean]: In this case opening `Complex` file-wide doesn't seem to break anything, so I suggest doing that. Rather than `all_goals` I personally prefer the syntax
```
  congr! <;>
  · simp [imaginaryPart_apply_coe, smul_comm (2 : ℝ) I, smul_smul I I, sub_eq_add_neg]
    grind ...
```
but that's a matter of taste clearly.

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean [hunk 15]
```diff
@@ -0,0 +1,178 @@
...
+/-- **Fuglede–Putnam–Rosenblum**: If `a` is a normal element in a C⋆-algebra `A` which
+commutes with `x`, then `star a` commutes with `x`. -/
+public lemma IsStarNormal.commute_star_left {A : Type*} [NonUnitalCStarAlgebra A] {a x : A}
+    (ha : IsStarNormal a) (h : Commute a x) :
+    Commute (star a) x :=
+  ha.commute_star_right h.symm |>.symm
+
+/-- A characterization of normal elements in a C⋆-algebra in terms of exponentials. -/
+public lemma isStarNormal_iff_forall_exp_mul_exp_mem_unitary {a : A} :
+    IsStarNormal a ↔ ∀ x : ℝ, exp (x • a) * exp (- x • star a) ∈ unitary A := by
```
Comment (loefflerd) [inline Mathlib/Analysis/CStarAlgebra/Fuglede.lean]:
```suggestion
    IsStarNormal a ↔ ∀ x : ℝ, exp (x • a) * exp (-x • star a) ∈ unitary A := by
```
(better matches the way it is parsed, as (-x) • (star a))

**Review by loefflerd — COMMENTED** [review]
This is looking great now, just a few more pieces of unrestrained pedantry from me

maintainer delegate

File: Mathlib/Analysis/CStarAlgebra/Fuglede.lean (hunk 11 above)
Comment (j-loreaux) [reply Mathlib/Analysis/CStarAlgebra/Fuglede.lean]: Indeed, I prefer `all_goals` (because it is simply more clear to the reader), but *especially* when there is a tactic *sequence* as opposed to a single tactic.

**Review by ocfnash — APPROVED** [review]
Thanks, both to author and reviewer!

bors merge
